US04028376
To a solution of metallic sodium (0.42 g) in methanol (12 ml), a solution of methyl 3-t-butyl-5-isoxazolylcarbamate (3.47 g) in methanol (5.5 ml) is added, and the resultant mixture is stirred at room temperature for 10 minutes. The reaction mixture is evaporated under reduced pressure to remove the methanol. The residue is combined with benzene, which is then evaporated. The residue is again combined with benzene (27 ml), and dimethyl sulfate (2.32 g) is added dropwise. The resultant mixture is stirred at room temperature for 1 hour and then refluxed for 1 hour. After cooling, the reaction mixture is filtered to remove the precipitate. The filtrate is washed with aqueous sodium bicarbonate solution and then water, dried over anhydrous sodium sulfate and evaporated to remove the solvent. The residue is recrystallized from cyclohexanone to give methyl N-methyl-3-t-butyl-5-isoxazolylcarbamate (3.41 g) as crystals melting at 70.5° to 71.5° C. The yield is 91.8%.

reactant | sodium | 0.42 g | [Na] | Na
reactant | methyl 3-t-butyl-5-isoxazolylcarbamate | 3.47 g | C(C)(C)(C)C1=NOC(=C1)NC(OC)=O | C9H14N2O3
reactant | methanol | 12 ml | CO | CH4O
reactant | methanol | 5.5 ml | CO | CH4O
product | methyl N-methyl-3-t-butyl-5-isoxazolylcarbamate | 3.41 g, yield is 91.8% | CN(C(OC)=O)C1=CC(=NO1)C(C)(C)C | C10H16N2O3
